US08278341B2
To a solution of diethyl 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate (1.72 g, 4 mmol) in THF (40 mL), with stirring at 0-5° C. and under Ar, was slowly added a solution of LAH in THF (16 mL, 1.0 M). After addition of LAH solution, the mixture was warmed to room temperature and then refluxed 2 h. The reaction mixture was cooled in an ice-water bath and quenched by carefully adding ethyl acetate (20 mL) and water (20 mL). The resultant mixture was extracted with ethyl acetate (3×100 ml); the extracts were combined, washed with brine, dried over Na2SO4, filtered, and evaporated to dryness. The residue was subjected to chromatography on silica gel to give 6-methoxy-2,10-dimethyl-5,7-dihydroindolo[2,3-b]carbazole (180 mg, 14%), 1H NMR (400 MHz, DMSO-d6) δ ppm 10.97 (s, 2H), 8.45 (s, 1H), 7.91 (s, 2H), 7.33 (d, J=8.0 Hz, 2H), 7.14 (dd, J=1.2, 8.0 Hz, 2H), 4.07 (s, 3H), 2.49 (s, 6H).

reactant | diethyl 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate | 4 mmol, 1.72 g | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C(=O)OCC)C=1C=C(C=CC1N2)C(=O)OCC | C25H22N2O5
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 16 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2,10-dimethyl-5,7-dihydroindolo[2,3-b]carbazole | 180 mg, 14% | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C)C=1C=C(C=CC1N2)C | C21H18N2O
